US07005432B2
5-(3-Cyclopropyl-phenyl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride
The title compound, MS: m/e=291.3 (M+H+), was prepared from 2-(3-cyclopropyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane and 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine.

reactant | 2-(3-cyclopropyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | C1(CC1)C=1C=C(C=CC1)B1OC(C(O1)(C)C)(C)C | C15H21BO2
reactant | 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine | ClC=1C=C(N=NC1)CN1C(=NC=C1)C | C9H9ClN4
product | 5-(3-Cyclopropyl-phenyl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride | Cl.C1(CC1)C=1C=C(C=CC1)C=1C=C(N=NC1)CN1C(=NC=C1)C | InChI=1S/C18H18N4.ClH/c1-13-19-7-8-22(13)12-18-10-17(11-20-21-18)16-4-2-3-15(9-16)14-5-6-14;/h2-4,7-11,14H,5-6,12H2,1H3;1H
